US09328134B2
To a stirred solution of (2R,3S,4S,5S,6S)-2-(hydroxymethyl)-6-methoxytetrahydro-2H-pyran-3,4,5-triol (15.0 g, 77.2 mmol, 1.0 equiv., commercially available Sigma Aldrich) in dry DMF (250 mL) was added sodium hydride (14.8 g, 309 mmol, 4.0 equiv) at 0° C. under nitrogen atmosphere. The reaction mixture was stirred at the same temperature for 30 minutes and then benzylbromide (38 mL, 309 mmol, 4.0 equiv) was added dropwise. The reaction mixture was stirred at room temperature for 16 hours. The reaction was quenched with MeOH (50 mL) at 0° C. and concentrated in vacuo. Ice cold water (80 mL) was added, the mixture was extracted with EtOAc (2×250 mL), and the combined organic layers were washed with saturated NaHCO3 solution (3×60 mL), dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The material thus obtained was purified by silica gel chromatography, eluting with 20% EtOAc in petroleum ether to afford (2R,3R,4S,5S,6S)-3,4,5-tris(benzyloxy)-2-((benzyloxy)methyl)-6-methoxytetrahydro-2H-pyran as a pale yellow oil (28 g, 65%). 1H NMR (400 MHz, CDCl3) δ 7.47-7.24 (m, 18H), 7.25-7.15 (m, 2H), 4.92 (d, J=10.8 Hz, 1H), 4.79 (dd, J=17.2, 2.2 Hz, 3H), 4.70 (d, J=12.1 Hz, 1H), 4.67-4.50 (m, 4H), 4.01 (t, J=9.1 Hz, 1H), 3.92 (dd, J=9.3, 3.1 Hz, 1H), 3.86-3.72 (m, 4H), 3.36 (s, 3H). ESI (M+H2O) 572.0, calc for C35H38O6 554.3.

reactant | (2R,3S,4S,5S,6S)-2-(hydroxymethyl)-6-methoxytetrahydro-2H-pyran-3,4,5-triol | OC[C@H]1O[C@@H]([C@H]([C@H]([C@@H]1O)O)O)OC | C7H14O6
reactant | sodium hydride | 309 mmol, 14.8 g, 4.0 equiv | [H-].[Na+]
reactant | benzylbromide | 309 mmol, 38 mL, 4.0 equiv | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | (2R,3R,4S,5S,6S)-3,4,5-tris(benzyloxy)-2-((benzyloxy)methyl)-6-methoxytetrahydro-2H-pyran | 28 g, 65% | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OC)COCC1=CC=CC=C1 | C35H38O6
